US07601716B2
1-(2,5-Dichlorobenzyl)-7-(1,2,3,6-tetrahydropyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
4-[1-(2,5-Dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (105 mg) was dissolved in CH2Cl2/trifluoroacetic acid (3:1, v/v) and stirred at room temperature for two (2) hours. The reaction mixture was concentrated, diluted with CH2Cl2, washed with NaHCO3 (×2), dried, filtered, and concentrated to give the title compound as a pale orange solid (84% yield). M.p. 133-136° C., LCMS: m/z=375.13 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 2.30-2.38 (m, 2H), 3.00-3.06 (m, 1H), 3.28-3.34 (m, 2H), 3.52-3.58 (m, 2H), 4.49 (s, 2H), 5.80 (s, 1H), 6.47 (s, 1H), 6.59 (s, 1H), 7.29 (d, J=2.5 Hz, 1H), 7.37-7.42 (m, 2H), 7.54 (d, J=8.6 Hz, 1H).

reactant | 4-[1-(2,5-Dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 105 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(NCCN2CC2=C(C=CC(=C2)Cl)Cl)N=C1 | C24H28Cl2N4O2
solvent | CH2Cl2 trifluoroacetic acid | C(Cl)Cl.FC(C(=O)O)(F)F
product | 1-(2,5-Dichlorobenzyl)-7-(1,2,3,6-tetrahydropyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 84% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3CCNCC3)C=C(C=C1)Cl | C19H20Cl2N4
